US05968985
A mixture of methyl 3-(3,5-dimethoxyphenyl)benzoate (0.83 g) and d,l-methionine (9.10 g) in methanesulfonic acid (19.8 ml) was stirred at 40° C. for 10 hours. The mixture was poured onto ice-water and then the product was extracted with ethyl acetate and washed with sodium hydrogencarbonate solution and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and acetone (5:1). The fractions containing the desired product was collected and evaporated in vacuo to give methyl 3-(3,5-dihydroxyphenyl)benzoate.

reactant | methyl 3-(3,5-dimethoxyphenyl)benzoate | 0.83 g | COC=1C=C(C=C(C1)OC)C=1C=C(C(=O)OC)C=CC1 | C16H16O4
reactant | d,l-methionine | 9.10 g | NC(CCSC)C(=O)O | C5H11NO2S
solvent | methanesulfonic acid | 19.8 ml | CS(=O)(=O)O | CH4O3S
product | methyl 3-(3,5-dihydroxyphenyl)benzoate | OC=1C=C(C=C(C1)O)C=1C=C(C(=O)OC)C=CC1 | C14H12O4
